US08604055B2
Step (i): Synthesis of 2-(bis-cyclopropylmethyl-amino)-6-fluoro-pyridine-3-carbaldehyde
Diisopropylamine (1.4 mL, 9.6 mmol) was stirred in ether (10 mL). The solution is cooled −78° C. with dry ice and acetone. n-Butyllithium (4 mL, 9.6 mmol) was added and the resulting solution was allowed to stir at −78° C. for about 15 minutes. 2,6-Difluoropyridine (0.8 mL, 8.7 mmol) was added and the solution was allowed to stir at −78° C. for about 2 hours. N,N-bis-cyclopropylmethyl formamide (1.71 g, 10.9 mmol) was added and the solution was allowed to stir at −78° C. for about 1 hour. The solution was quenched with 10% potassium phosphate. The solution was extracted with ether (2×20 mL). The combined organic layers were washed with water and brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give an orange oily product. Purification by silica gel chromatography and eluting with 20% ethyl acetate in hexanes afforded the title compound as an orange oil (224 mg, yield: 10.3%).

reactant | Diisopropylamine | 9.6 mmol, 1.4 mL | C(C)(C)NC(C)C | C6H15N
reactant | dry ice | C(=O)=O | CO2
reactant | n-Butyllithium | 9.6 mmol, 4 mL | C(CCC)[Li]
reactant | 2,6-Difluoropyridine | 8.7 mmol, 0.8 mL | FC1=NC(=CC=C1)F | C5H3F2N
reactant | N,N-bis-cyclopropylmethyl formamide | 10.9 mmol, 1.71 g | C1(CC1)CN(C=O)CC1CC1 | C9H15NO
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | acetone | CC(=O)C | C3H6O
product | 2-(bis-cyclopropylmethyl-amino)-6-fluoro-pyridine-3-carbaldehyde | 224 mg, yield: 10.3% | C1(CC1)CN(C1=NC(=CC=C1C=O)F)CC1CC1 | C14H17FN2O
